US07439371B2
Step 1: Methyl-3-(2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide
(2-Oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzoic acid (as prepared in Preparation 2; 0.228 g, 0.77 mmol) was dissolved in DMF (3 mL). The resulting solution was treated with HATU (0.434 g, 1.16 mmol) and 2M MeNH2 in THF (2.68 mL, 5.36 mmol) then allowed to stir for 3 hours at room temperature. The reaction mixture was then concentrated in vacuo and the crude was re-dissolved in EtOAc (15 mL) and washed with brine (3×15 mL). The combined organics were then dried over Na2SO4, filtered and concentrated in vacuo. The crude mixture was then purified via flash silica gel chromatography (5% MeOH in CHCl3) affording the title compound as a white solid in 31% yield (71 mg, 0.239 mmol).

reactant | (2-Oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzoic acid | 0.77 mmol, 0.228 g | O=C1NC2=CC(=CC=C2C1)SC1=C(C(=O)O)C=CC=C1 | C15H11NO3S
reactant | HATU | 1.16 mmol, 0.434 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | MeNH2 | 2M | CN | CH5N
reactant | THF | 5.36 mmol, 2.68 mL | C1CCOC1 | C4H8O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Methyl-3-(2-oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzamide | 31% yield | CC1=C(C(=O)N)C=CC=C1SC1=CC=C2CC(NC2=C1)=O | C16H14N2O2S
